* extracted by klt extract --deck sky130

* cell utmi_stub
* pin DataIn[0]
* pin DataIn[1]
* pin DataIn[2]
* pin DataIn[3]
* pin DataIn[4]
* pin DataIn[5]
* pin DataIn[6]
* pin DataIn[7]
* pin DataOut[0]
* pin DataOut[1]
* pin DataOut[2]
* pin DataOut[3]
* pin DataOut[4]
* pin DataOut[5]
* pin DataOut[6]
* pin DataOut[7]
* pin RxValid
* pin TxValid
* pin VGND
* pin VPWR
* pin clk
* pin clknet_0_clk
* pin clknet_1_0__leaf_clk
* pin clknet_1_1__leaf_clk
* pin rst_n
.SUBCKT utmi_stub DataIn[0] DataIn[1] DataIn[2] DataIn[3] DataIn[4] DataIn[5]
+ DataIn[6] DataIn[7] DataOut[0] DataOut[1] DataOut[2] DataOut[3] DataOut[4]
+ DataOut[5] DataOut[6] DataOut[7] RxValid TxValid VGND VPWR clk clknet_0_clk
+ clknet_1_0__leaf_clk clknet_1_1__leaf_clk rst_n
* cell instance sky130_fd_sc_hd__buf_4_0 r0 *1 0,0
Xsky130_fd_sc_hd__buf_4_0 clknet_0_clk VGND VPWR VPWR clknet_1_0__leaf_clk
+ sky130_fd_sc_hd__buf_4
* cell instance sky130_fd_sc_hd__buf_4_1 r0 *1 0,0
Xsky130_fd_sc_hd__buf_4_1 clk VGND VPWR VPWR clknet_0_clk sky130_fd_sc_hd__buf_4
* cell instance sky130_fd_sc_hd__buf_4_2 r0 *1 0,0
Xsky130_fd_sc_hd__buf_4_2 clknet_0_clk VGND VPWR VPWR clknet_1_1__leaf_clk
+ sky130_fd_sc_hd__buf_4
* cell instance sky130_fd_sc_hd__dfrtp_1_0 r0 *1 0,0
Xsky130_fd_sc_hd__dfrtp_1_0 clknet_1_0__leaf_clk DataOut[4] DataIn[4] rst_n
+ VGND VPWR VPWR sky130_fd_sc_hd__dfrtp_1
* cell instance sky130_fd_sc_hd__dfrtp_1_1 r0 *1 0,0
Xsky130_fd_sc_hd__dfrtp_1_1 clknet_1_1__leaf_clk DataOut[6] DataIn[6] rst_n
+ VGND VPWR VPWR sky130_fd_sc_hd__dfrtp_1
* cell instance sky130_fd_sc_hd__dfrtp_1_2 r0 *1 0,0
Xsky130_fd_sc_hd__dfrtp_1_2 clknet_1_0__leaf_clk DataOut[0] DataIn[0] rst_n
+ VGND VPWR VPWR sky130_fd_sc_hd__dfrtp_1
* cell instance sky130_fd_sc_hd__dfrtp_1_3 r0 *1 0,0
Xsky130_fd_sc_hd__dfrtp_1_3 clknet_1_0__leaf_clk DataOut[3] DataIn[3] rst_n
+ VGND VPWR VPWR sky130_fd_sc_hd__dfrtp_1
* cell instance sky130_fd_sc_hd__dfrtp_1_4 r0 *1 0,0
Xsky130_fd_sc_hd__dfrtp_1_4 clknet_1_1__leaf_clk DataOut[2] DataIn[2] rst_n
+ VGND VPWR VPWR sky130_fd_sc_hd__dfrtp_1
* cell instance sky130_fd_sc_hd__dfrtp_1_5 r0 *1 0,0
Xsky130_fd_sc_hd__dfrtp_1_5 clknet_1_1__leaf_clk DataOut[5] DataIn[5] rst_n
+ VGND VPWR VPWR sky130_fd_sc_hd__dfrtp_1
* cell instance sky130_fd_sc_hd__dfrtp_1_6 r0 *1 0,0
Xsky130_fd_sc_hd__dfrtp_1_6 clknet_1_0__leaf_clk DataOut[1] DataIn[1] rst_n
+ VGND VPWR VPWR sky130_fd_sc_hd__dfrtp_1
* cell instance sky130_fd_sc_hd__dfrtp_1_7 r0 *1 0,0
Xsky130_fd_sc_hd__dfrtp_1_7 clknet_1_1__leaf_clk DataOut[7] DataIn[7] rst_n
+ VGND VPWR VPWR sky130_fd_sc_hd__dfrtp_1
* cell instance sky130_fd_sc_hd__dfrtp_1_8 r0 *1 0,0
Xsky130_fd_sc_hd__dfrtp_1_8 clknet_1_1__leaf_clk TxValid RxValid rst_n VGND
+ VPWR VPWR sky130_fd_sc_hd__dfrtp_1
* cell instance sky130_fd_sc_hd__fill_1_0 r0 *1 0,0
Xsky130_fd_sc_hd__fill_1_0 VGND VPWR VPWR sky130_fd_sc_hd__fill_1
* cell instance sky130_fd_sc_hd__fill_1_1 r0 *1 0,0
Xsky130_fd_sc_hd__fill_1_1 VGND VPWR VPWR sky130_fd_sc_hd__fill_1
* cell instance sky130_fd_sc_hd__fill_1_2 r0 *1 0,0
Xsky130_fd_sc_hd__fill_1_2 VGND VPWR VPWR sky130_fd_sc_hd__fill_1
* cell instance sky130_fd_sc_hd__fill_1_3 r0 *1 0,0
Xsky130_fd_sc_hd__fill_1_3 VGND VPWR VPWR sky130_fd_sc_hd__fill_1
* cell instance sky130_fd_sc_hd__fill_1_4 r0 *1 0,0
Xsky130_fd_sc_hd__fill_1_4 VGND VPWR VPWR sky130_fd_sc_hd__fill_1
* cell instance sky130_fd_sc_hd__fill_1_5 r0 *1 0,0
Xsky130_fd_sc_hd__fill_1_5 VGND VPWR VPWR sky130_fd_sc_hd__fill_1
* cell instance sky130_fd_sc_hd__fill_2_0 r0 *1 0,0
Xsky130_fd_sc_hd__fill_2_0 VGND VPWR VPWR sky130_fd_sc_hd__fill_2
* cell instance sky130_fd_sc_hd__fill_2_1 r0 *1 0,0
Xsky130_fd_sc_hd__fill_2_1 VGND VPWR VPWR sky130_fd_sc_hd__fill_2
* cell instance sky130_fd_sc_hd__fill_2_2 r0 *1 0,0
Xsky130_fd_sc_hd__fill_2_2 VGND VPWR VPWR sky130_fd_sc_hd__fill_2
* cell instance sky130_fd_sc_hd__fill_2_3 r0 *1 0,0
Xsky130_fd_sc_hd__fill_2_3 VGND VPWR VPWR sky130_fd_sc_hd__fill_2
* cell instance sky130_fd_sc_hd__fill_2_4 r0 *1 0,0
Xsky130_fd_sc_hd__fill_2_4 VGND VPWR VPWR sky130_fd_sc_hd__fill_2
* cell instance sky130_fd_sc_hd__fill_2_5 r0 *1 0,0
Xsky130_fd_sc_hd__fill_2_5 VGND VPWR VPWR sky130_fd_sc_hd__fill_2
* cell instance sky130_fd_sc_hd__fill_2_6 r0 *1 0,0
Xsky130_fd_sc_hd__fill_2_6 VGND VPWR VPWR sky130_fd_sc_hd__fill_2
* cell instance sky130_fd_sc_hd__fill_2_7 r0 *1 0,0
Xsky130_fd_sc_hd__fill_2_7 VGND VPWR VPWR sky130_fd_sc_hd__fill_2
* cell instance sky130_fd_sc_hd__fill_2_8 r0 *1 0,0
Xsky130_fd_sc_hd__fill_2_8 VGND VPWR VPWR sky130_fd_sc_hd__fill_2
* cell instance sky130_fd_sc_hd__fill_2_9 r0 *1 0,0
Xsky130_fd_sc_hd__fill_2_9 VGND VPWR VPWR sky130_fd_sc_hd__fill_2
* cell instance sky130_fd_sc_hd__fill_2_10 r0 *1 0,0
Xsky130_fd_sc_hd__fill_2_10 VGND VPWR VPWR sky130_fd_sc_hd__fill_2
* cell instance sky130_fd_sc_hd__fill_2_11 r0 *1 0,0
Xsky130_fd_sc_hd__fill_2_11 VGND VPWR VPWR sky130_fd_sc_hd__fill_2
* cell instance sky130_fd_sc_hd__fill_4_0 r0 *1 0,0
Xsky130_fd_sc_hd__fill_4_0 VGND VPWR VPWR sky130_fd_sc_hd__fill_4
* cell instance sky130_fd_sc_hd__fill_8_0 r0 *1 0,0
Xsky130_fd_sc_hd__fill_8_0 VGND VPWR VPWR sky130_fd_sc_hd__fill_8
* cell instance sky130_fd_sc_hd__fill_8_1 r0 *1 0,0
Xsky130_fd_sc_hd__fill_8_1 VGND VPWR VPWR sky130_fd_sc_hd__fill_8
* cell instance sky130_fd_sc_hd__fill_8_2 r0 *1 0,0
Xsky130_fd_sc_hd__fill_8_2 VGND VPWR VPWR sky130_fd_sc_hd__fill_8
* cell instance sky130_fd_sc_hd__fill_8_3 r0 *1 0,0
Xsky130_fd_sc_hd__fill_8_3 VGND VPWR VPWR sky130_fd_sc_hd__fill_8
* cell instance sky130_fd_sc_hd__fill_8_4 r0 *1 0,0
Xsky130_fd_sc_hd__fill_8_4 VGND VPWR VPWR sky130_fd_sc_hd__fill_8
* cell instance sky130_fd_sc_hd__fill_8_5 r0 *1 0,0
Xsky130_fd_sc_hd__fill_8_5 VGND VPWR VPWR sky130_fd_sc_hd__fill_8
* cell instance sky130_fd_sc_hd__fill_8_6 r0 *1 0,0
Xsky130_fd_sc_hd__fill_8_6 VGND VPWR VPWR sky130_fd_sc_hd__fill_8
* cell instance sky130_fd_sc_hd__fill_8_7 r0 *1 0,0
Xsky130_fd_sc_hd__fill_8_7 VGND VPWR VPWR sky130_fd_sc_hd__fill_8
* cell instance sky130_fd_sc_hd__fill_8_8 r0 *1 0,0
Xsky130_fd_sc_hd__fill_8_8 VGND VPWR VPWR sky130_fd_sc_hd__fill_8
* cell instance sky130_fd_sc_hd__fill_8_9 r0 *1 0,0
Xsky130_fd_sc_hd__fill_8_9 VGND VPWR VPWR sky130_fd_sc_hd__fill_8
* cell instance sky130_fd_sc_hd__fill_8_10 r0 *1 0,0
Xsky130_fd_sc_hd__fill_8_10 VGND VPWR VPWR sky130_fd_sc_hd__fill_8
* cell instance sky130_fd_sc_hd__fill_8_11 r0 *1 0,0
Xsky130_fd_sc_hd__fill_8_11 VGND VPWR VPWR sky130_fd_sc_hd__fill_8
* cell instance sky130_fd_sc_hd__fill_8_12 r0 *1 0,0
Xsky130_fd_sc_hd__fill_8_12 VGND VPWR VPWR sky130_fd_sc_hd__fill_8
* cell instance sky130_fd_sc_hd__fill_8_13 r0 *1 0,0
Xsky130_fd_sc_hd__fill_8_13 VGND VPWR VPWR sky130_fd_sc_hd__fill_8
* cell instance sky130_fd_sc_hd__fill_8_14 r0 *1 0,0
Xsky130_fd_sc_hd__fill_8_14 VGND VPWR VPWR sky130_fd_sc_hd__fill_8
* cell instance sky130_fd_sc_hd__fill_8_15 r0 *1 0,0
Xsky130_fd_sc_hd__fill_8_15 VGND VPWR VPWR sky130_fd_sc_hd__fill_8
* cell instance sky130_fd_sc_hd__fill_8_16 r0 *1 0,0
Xsky130_fd_sc_hd__fill_8_16 VGND VPWR VPWR sky130_fd_sc_hd__fill_8
* cell instance sky130_fd_sc_hd__fill_8_17 r0 *1 0,0
Xsky130_fd_sc_hd__fill_8_17 VGND VPWR VPWR sky130_fd_sc_hd__fill_8
* cell instance sky130_fd_sc_hd__fill_8_18 r0 *1 0,0
Xsky130_fd_sc_hd__fill_8_18 VGND VPWR VPWR sky130_fd_sc_hd__fill_8
* cell instance sky130_fd_sc_hd__fill_8_19 r0 *1 0,0
Xsky130_fd_sc_hd__fill_8_19 VGND VPWR VPWR sky130_fd_sc_hd__fill_8
* cell instance sky130_fd_sc_hd__inv_1_0 r0 *1 0,0
Xsky130_fd_sc_hd__inv_1_0 clknet_1_0__leaf_clk VGND VPWR VPWR \$17
+ sky130_fd_sc_hd__inv_1
* cell instance sky130_fd_sc_hd__tapvpwrvgnd_1_0 r0 *1 0,0
Xsky130_fd_sc_hd__tapvpwrvgnd_1_0 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
* cell instance sky130_fd_sc_hd__tapvpwrvgnd_1_1 r0 *1 0,0
Xsky130_fd_sc_hd__tapvpwrvgnd_1_1 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
* cell instance sky130_fd_sc_hd__tapvpwrvgnd_1_2 r0 *1 0,0
Xsky130_fd_sc_hd__tapvpwrvgnd_1_2 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
* cell instance sky130_fd_sc_hd__tapvpwrvgnd_1_3 r0 *1 0,0
Xsky130_fd_sc_hd__tapvpwrvgnd_1_3 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
* cell instance sky130_fd_sc_hd__tapvpwrvgnd_1_4 r0 *1 0,0
Xsky130_fd_sc_hd__tapvpwrvgnd_1_4 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
.ENDS utmi_stub

* cell sky130_fd_sc_hd__tapvpwrvgnd_1
* pin VGND
* pin VPWR
.SUBCKT sky130_fd_sc_hd__tapvpwrvgnd_1 VGND VPWR
.ENDS sky130_fd_sc_hd__tapvpwrvgnd_1

* cell sky130_fd_sc_hd__inv_1
* pin A
* pin VGND
* pin VPB
* pin VPWR
* pin Y
.SUBCKT sky130_fd_sc_hd__inv_1 A VGND VPB VPWR Y
.ENDS sky130_fd_sc_hd__inv_1

* cell sky130_fd_sc_hd__fill_8
* pin VGND
* pin VPB
* pin VPWR
.SUBCKT sky130_fd_sc_hd__fill_8 VGND VPB VPWR
.ENDS sky130_fd_sc_hd__fill_8

* cell sky130_fd_sc_hd__fill_4
* pin VGND
* pin VPB
* pin VPWR
.SUBCKT sky130_fd_sc_hd__fill_4 VGND VPB VPWR
.ENDS sky130_fd_sc_hd__fill_4

* cell sky130_fd_sc_hd__fill_2
* pin VGND
* pin VPB
* pin VPWR
.SUBCKT sky130_fd_sc_hd__fill_2 VGND VPB VPWR
.ENDS sky130_fd_sc_hd__fill_2

* cell sky130_fd_sc_hd__fill_1
* pin VGND
* pin VPB
* pin VPWR
.SUBCKT sky130_fd_sc_hd__fill_1 VGND VPB VPWR
.ENDS sky130_fd_sc_hd__fill_1

* cell sky130_fd_sc_hd__dfrtp_1
* pin CLK
* pin D
* pin Q
* pin RESET_B
* pin VGND
* pin VPB
* pin VPWR
.SUBCKT sky130_fd_sc_hd__dfrtp_1 CLK D Q RESET_B VGND VPB VPWR
.ENDS sky130_fd_sc_hd__dfrtp_1

* cell sky130_fd_sc_hd__buf_4
* pin A
* pin VGND
* pin VPB
* pin VPWR
* pin X
.SUBCKT sky130_fd_sc_hd__buf_4 A VGND VPB VPWR X
.ENDS sky130_fd_sc_hd__buf_4
